US06310056B1
Pivaloyloxymethyl (1S,5R,6S)-2-[7-(N,N-dimethylcarbamoyl)imidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate
To a solution of 50 mg of sodium (1R,5R,6S)-2-[7-(N,N-dimethylcarbamoyl)imidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-carbapen-2-em-3-carboxylate in 0.7 ml of DMF was added 5.0 mg of sodium hydrogen carbonate, and the mixture was cooled to −30° C. under the atmosphere of argon. The reaction mixture was added with 43 mg of pivaloyloxymethyl iodide, stirred for 1 hour, extracted with 20 ml of ethyl acetate, and the organic layer was washed with 12 ml of semi-saturated aqueous saline, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to a volume of about 1 ml. The residue thus obtained was purified by column chromatography on silica gel (dichloromethane:methanol=95:5) to give 55 mg of the title compound.

reactant | sodium (1R,5R,6S)-2-[7-(N,N-dimethylcarbamoyl)imidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-carbapen-2-em-3-carboxylate | 50 mg | CN(C(=O)C=1N=CN2C1SC(=C2)C=2[C@H]([C@H]1N(C2C(=O)[O-])C([C@@H]1[C@@H](C)O)=O)C)C.[Na+]
reactant | sodium hydrogen carbonate | 5.0 mg | C(O)([O-])=O.[Na+]
reactant | pivaloyloxymethyl iodide | 43 mg | C(C(C)(C)C)(=O)OCI | C6H11IO2
solvent | DMF | 0.7 ml | CN(C)C=O | C3H7NO
product | Pivaloyloxymethyl (1S,5R,6S)-2-[7-(N,N-dimethylcarbamoyl)imidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | 55 mg | CN(C(=O)C=1N=CN2C1SC(=C2)C=2[C@@H]([C@H]1N(C2C(=O)OCOC(C(C)(C)C)=O)C([C@@H]1[C@@H](C)O)=O)C)C | C24H30N4O7S
